US06015812
3-Amino-3-(2-naphthyl)propionic acid hydrochloride
The method described in J. Am. Chem. Soc., 1936, 58, 299 is used. 15.5 g of 2-formylnaphthalene, 10.4 g of malonic acid and 15.4 g of ammonium acetate in 150 ml of ethanol are mixed together and refluxed for 6 hours. After cooling to RT, the product is drained, washed with EtOH and dried. The product obtained is dissolved in a sufficient amount of 2N HCl and the insoluble material is then filtered off. The acidic solution is concentrated by evaporating under vacuum and the solid thus formed is recrystallized from 20 ml of an AcOH/H2O mixture (1/1; v/v). 3.8 g of the expected product are obtained.

reactant | 2-formylnaphthalene | 15.5 g | C(=O)C1=CC2=CC=CC=C2C=C1 | C11H8O
reactant | malonic acid | 10.4 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | ammonium acetate | 15.4 g | C(C)(=O)[O-].[NH4+]
reactant | HCl | 2N | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-Amino-3-(2-naphthyl)propionic acid hydrochloride | 3.8 g | Cl.NC(CC(=O)O)C1=CC2=CC=CC=C2C=C1 | InChI=1S/C13H13NO2.ClH/c14-12(8-13(15)16)11-6-5-9-3-1-2-4-10(9)7-11;/h1-7,12H,8,14H2,(H,15,16);1H
